US07071332B2
2-Oxo-3-[5-(2-pyrrolidin-1-yl-ethoxy)-1H-indol-2-ylmethylene]-2,3-dihydro-1H-indole-5-sulfonic acid (3-chloro-phenyl)-amide
2-Oxo-2,3-dihydro-1H-indole-5-sulfonic acid (3-chloro-phenyl)-amide was condensed with 5-(2-pyrrolidin-1-yl-ethoxy)-1H-indole-2-carbaldehyde to give the title compound.

reactant | 2-Oxo-2,3-dihydro-1H-indole-5-sulfonic acid (3-chloro-phenyl)-amide | ClC=1C=C(C=CC1)NS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C14H11ClN2O3S
reactant | 5-(2-pyrrolidin-1-yl-ethoxy)-1H-indole-2-carbaldehyde | N1(CCCC1)CCOC=1C=C2C=C(NC2=CC1)C=O | C15H18N2O2
product | 2-Oxo-3-[5-(2-pyrrolidin-1-yl-ethoxy)-1H-indol-2-ylmethylene]-2,3-dihydro-1H-indole-5-sulfonic acid (3-chloro-phenyl)-amide | ClC=1C=C(C=CC1)NS(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=CC=1NC2=CC=C(C=C2C1)OCCN1CCCC1 | C29H27ClN4O4S
